### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Prod): add edist lemmas about graph box product

### PR DESCRIPTION
**Pull request by bsubercaseaux**
This PR adds some basic lemmas about metric aspects of box products. In particular, it adds:
a lemma stating that `(G □ H).edist x y = G.edist x.1 y.1 + H.edist x.2 y.2`, and a couple of auxiliary facts to prove it.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 1]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: George Peter Banyard, Yaël Dillies, Kyle Miller
 -/
 import Mathlib.Combinatorics.SimpleGraph.Path
+import Mathlib.Combinatorics.SimpleGraph.Metric
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:7]: I'd be tempted to make this import in the other direction, but perhaps @kmill has stronger opinions

**Review by eric-wieser — COMMENTED** [review]
Thanks, this looks like some useful API; I'll leave reviewing the proofs (as opposed to the statements) to someone more familiar with the area.

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 2]
```diff
@@ -212,4 +213,66 @@ theorem boxProd_degree (x : α × β)
...
+        congr
+        · exact h₁.2.symm
+        · simp only [heq_eqRec_iff_heq, heq_eq_eq]
+
+      · simp only [h₂, SimpleGraph.irrefl, false_and, ↓reduceDIte, Walk.length_cons, add_assoc]
+        congr
+        · exact h₂.2.symm
+        · simp only [heq_eqRec_iff_heq, heq_eq_eq]
+
+lemma boxProd_edist (x y : α × β) :
```
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:252]: Added! that makes sense to me!

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 3]
```diff
@@ -212,4 +213,66 @@ theorem boxProd_degree (x : α × β)
...
+lemma boxProd_reach (x y : α × β) :
+    (G □ H).Reachable x y ↔ G.Reachable x.1 y.1 ∧ H.Reachable x.2 y.2 := by
+  classical
+  constructor
+  · intro ⟨w⟩
+    exact ⟨⟨w.ofBoxProdLeft⟩, ⟨w.ofBoxProdRight⟩⟩
+  · intro ⟨⟨w₁⟩, ⟨w₂⟩⟩
+    exact ⟨(w₁.boxProdLeft _ _).append (w₂.boxProdRight _ _)⟩
+
+lemma boxProd_edist_top (x y : α × β) :
```
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: Goot catch, updated!

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 4]
```diff
@@ -212,4 +213,66 @@ theorem boxProd_degree (x : α × β)
   rw [degree, degree, degree, boxProd_neighborFinset, Finset.card_disjUnion]
   simp_rw [Finset.card_product, Finset.card_singleton, mul_one, one_mul]
 
+lemma boxProd_reach (x y : α × β) :
```
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: agree! updated

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 5]
```diff
@@ -212,4 +213,66 @@ theorem boxProd_degree (x : α × β)
...
+  · intro ⟨⟨w₁⟩, ⟨w₂⟩⟩
+    exact ⟨(w₁.boxProdLeft _ _).append (w₂.boxProdRight _ _)⟩
+
+lemma boxProd_edist_top (x y : α × β) :
+    (G □ H).edist x y = ⊤ ↔ G.edist x.1 y.1 = ⊤ ∨ H.edist x.2 y.2 = ⊤ := by
+  repeat rw [← not_ne_iff, edist_ne_top_iff_reachable]
+  rw [boxProd_reach]
+  tauto
+
+lemma boxProd_len_eq_sum_projections {a₁ a₂ : α} {b₁ b₂ : β} [DecidableEq α] [DecidableEq β]
```
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:231]: Sounds reasonable to me! will wait for another reviewer :) Thanks for your careful review!

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:7]: I think this local straightening of the import graph is bad, but easier to work against once we have enough material in a given folder to decide what the "primitives" of that folder are, and what's derived. Therefore I am happy to leave this as is for now

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 6]
```diff
@@ -212,4 +213,66 @@ theorem boxProd_degree (x : α × β)
   rw [degree, degree, degree, boxProd_neighborFinset, Finset.card_disjUnion]
   simp_rw [Finset.card_product, Finset.card_singleton, mul_one, one_mul]
 
+lemma boxProd_reachable (x y : α × β) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:216]:
```suggestion
lemma boxProd_reachable {x y : α × β} :
```
since it's an iff. Same below

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 7]
```diff
@@ -212,4 +213,66 @@ theorem boxProd_degree (x : α × β)
...
+    (G □ H).Reachable x y ↔ G.Reachable x.1 y.1 ∧ H.Reachable x.2 y.2 := by
+  classical
+  constructor
+  · intro ⟨w⟩
+    exact ⟨⟨w.ofBoxProdLeft⟩, ⟨w.ofBoxProdRight⟩⟩
+  · intro ⟨⟨w₁⟩, ⟨w₂⟩⟩
+    exact ⟨(w₁.boxProdLeft _ _).append (w₂.boxProdRight _ _)⟩
+
+lemma boxProd_edist_eq_top (x y : α × β) :
+    (G □ H).edist x y = ⊤ ↔ G.edist x.1 y.1 = ⊤ ∨ H.edist x.2 y.2 = ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:226]:
```suggestion
lemma edist_boxProd_eq_top (x y : α × β) :
    (G □ H).edist x y = ⊤ ↔ G.edist x.1 y.1 = ⊤ ∨ H.edist x.2 y.2 = ⊤ := by
```
Same below. Also this lemma can be proved by simp below `boxProd_edist`, right?

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 8]
```diff
@@ -212,4 +213,66 @@ theorem boxProd_degree (x : α × β)
...
+  repeat rw [← not_ne_iff, edist_ne_top_iff_reachable]
+  rw [boxProd_reachable]
+  tauto
+
+lemma boxProd_len_eq_sum_projections {a₁ a₂ : α} {b₁ b₂ : β} [DecidableEq α] [DecidableEq β]
+    [DecidableRel G.Adj] [DecidableRel H.Adj] (w : (G □ H).Walk (a₁, b₁) (a₂, b₂)) :
+    w.length = w.ofBoxProdLeft.length + w.ofBoxProdRight.length := by
+  match w with
+  | Walk.nil => simp [Walk.length, Walk.ofBoxProdLeft, Walk.ofBoxProdRight]
+  | Walk.cons x w' => next c =>
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:236]: nit:
```suggestion
  | .nil => simp [Walk.length, Walk.ofBoxProdLeft, Walk.ofBoxProdRight]
  | .cons x w' => next c =>
```

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 9]
```diff
@@ -212,4 +213,66 @@ theorem boxProd_degree (x : α × β)
...
+    have le : (G □ H).edist x y ≤ G.edist x.1 y.1 + H.edist x.2 y.2 := by
+      calc (G □ H).edist x y ≤ w_app.length := by exact edist_le _
+          _ = wG.length + wH.length := by exact_mod_cast w_len
+          _ = G.edist x.1 y.1 + H.edist x.2 y.2 := by simp only [hwG, hwH]
+
+    have ge : G.edist x.1 y.1 + H.edist x.2 y.2 ≤ (G □ H).edist x y  := by
+      have ⟨w, hw⟩ :=  exists_walk_of_edist_ne_top h
+      rw [← hw, boxProd_len_eq_sum_projections]
+      apply add_le_add (edist_le (Walk.ofBoxProdLeft w)) (edist_le (Walk.ofBoxProdRight w))
+    apply le_antisymm le ge
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:276]: We usually do backwards reasoning to avoid having to restate intermediate steps. Eg here this would look like
```suggestion
    refine le_antisymm ?_ ?_
    ·  calc (G □ H).edist x y ≤ w_app.length := by exact edist_le _
          _ = wG.length + wH.length := by exact_mod_cast w_len
          _ = G.edist x.1 y.1 + H.edist x.2 y.2 := by simp only [hwG, hwH]
    · have ⟨w, hw⟩ :=  exists_walk_of_edist_ne_top h
      rw [← hw, boxProd_len_eq_sum_projections]
      apply add_le_add (edist_le (Walk.ofBoxProdLeft w)) (edist_le (Walk.ofBoxProdRight w))
```

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 10]
```diff
@@ -212,4 +213,66 @@ theorem boxProd_degree (x : α × β)
...
+
+    have le : (G □ H).edist x y ≤ G.edist x.1 y.1 + H.edist x.2 y.2 := by
+      calc (G □ H).edist x y ≤ w_app.length := by exact edist_le _
+          _ = wG.length + wH.length := by exact_mod_cast w_len
+          _ = G.edist x.1 y.1 + H.edist x.2 y.2 := by simp only [hwG, hwH]
+
+    have ge : G.edist x.1 y.1 + H.edist x.2 y.2 ≤ (G □ H).edist x y  := by
+      have ⟨w, hw⟩ :=  exists_walk_of_edist_ne_top h
+      rw [← hw, boxProd_len_eq_sum_projections]
+      apply add_le_add (edist_le (Walk.ofBoxProdLeft w)) (edist_le (Walk.ofBoxProdRight w))
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:275]: Dot notation is your friend. Use dot notation
```suggestion
      apply add_le_add (edist_le w.ofBoxProdLeft) (edist_le w.ofBoxProdRight)
```

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 9 above)
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:276]: You seem to be using `apply` even when `exact` would work. `exact` is generally sturdier than `apply` (eg it elaborates the term you give it using the goal, rather than `apply` which elaborates it with no expected term), so you should try using it wherever `apply` would leave no goal
```suggestion
      exact add_le_add (edist_le (Walk.ofBoxProdLeft w)) (edist_le (Walk.ofBoxProdRight w))
    exact le_antisymm le ge
```

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:231]: I would possibly turn this lemma around and call it `Walk.length_ofBoxProdLeft_add_length_ofBoxProdRight`

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:226]: I think a lot of the existing lemmas in this file are misnamed; perhaps it makes sense for you to make a deprecation PR to fix them first, @YaelDillies?

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 6 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: Done, I see why that's better!

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 8 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: Done!

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 9 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: That makes sense, I hadn't really learned the difference yet.

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 10 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: Done!

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 7 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: Changed the name! and yes, I think given `boxProd_edist` this is just a `simp`.  Given I use this in the proof of `boxProd_edist`, is the suggestion to remove it and just "inline" this lemma there?

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:231]: you mean to state it as `w.ofBoxProdLeft.length + w.ofBoxProdRight.length = w.length`?  If so, what is the rationale? At least to me it feels more natural to think of it as "the length of a walk in the product is the sum of the length of its projections", rather than "the sum of the lengths of the projections of a walk equal the length of that walk", but I'm thinking from a pen-and-paper perspective rather than from which direction would be more commonly used...

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: > Given I use this in the proof of `boxProd_edist`, is the suggestion to remove it and just "inline" this lemma there?

I would say so, yes, because `edist G a b = \top` isn't simp normal form, and should instead be replaced with `\not IsReachable G a b`, by which point the lemma already exists (up to distributing `\not` over `\or`)

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:231]: `w.length` is a simpler expression than `w.ofBoxProdLeft.length + w.ofBoxProdRight.length`. Of course, the *type* of `w` is more complicated than the types of `w.ofBoxProdLeft` and `w.ofBoxProdRight`, but it is much harder to decide what "complicated expression" means if you also include types in the picture.

The fact that `w.length` is simpler also translates to your current lemma being harder to name, as you've just experienced.

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 11]
```diff
@@ -212,4 +213,63 @@ theorem boxProd_degree (x : α × β)
...
+    let w_app := (wG.boxProdLeft _ _).append (wH.boxProdRight _ _)
+    have w_len : w_app.length = wG.length + wH.length := by
+      unfold w_app Walk.boxProdLeft Walk.boxProdRight
+      simp only [Walk.length_append, Walk.length_map]
+
+    refine le_antisymm ?_ ?_
+    ·  calc (G □ H).edist x y ≤ w_app.length := by exact edist_le _
+          _ = wG.length + wH.length := by exact_mod_cast w_len
+          _ = G.edist x.1 y.1 + H.edist x.2 y.2 := by simp only [hwG, hwH]
+    · have ⟨w, hw⟩ :=  exists_walk_of_edist_ne_top h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:271]:
```suggestion
    · have ⟨w, hw⟩ := exists_walk_of_edist_ne_top h
```

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 12]
```diff
@@ -212,4 +213,63 @@ theorem boxProd_degree (x : α × β)
...
+lemma boxProd_reachable {x y : α × β} :
+    (G □ H).Reachable x y ↔ G.Reachable x.1 y.1 ∧ H.Reachable x.2 y.2 := by
+  classical
+  constructor
+  · intro ⟨w⟩
+    exact ⟨⟨w.ofBoxProdLeft⟩, ⟨w.ofBoxProdRight⟩⟩
+  · intro ⟨⟨w₁⟩, ⟨w₂⟩⟩
+    exact ⟨(w₁.boxProdLeft _ _).append (w₂.boxProdRight _ _)⟩
+
+lemma edist_boxProd_eq_top {x y : α × β}:
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:225]:
```suggestion
lemma edist_boxProd_eq_top {x y : α × β} :
```

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: > I think a lot of the existing lemmas in this file are misnamed; perhaps it makes sense for you to make a deprecation PR to fix them first, @YaelDillies?

#23439

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 12 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:225]: Thanks! Is there a linter/formatter you use or just manually?

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 7 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: At the end this particular lemma was removed due to Yael's suggestion

**Review by YaelDillies — COMMENTED** [review]
I'll let someone else decide on https://github.com/leanprover-community/mathlib4/pull/23385/files#r2017746033

maintainer merge?

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:225]: I'm with Eric on this one: in terms of how this lemma would be used in practice, the forward direction seems much more useful than the reverse.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:225]: Then I've got no nice name for this lemma, sorry

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:225]: I think Eric's name was fine!

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 13]
```diff
@@ -141,6 +142,26 @@ theorem ofBoxProdLeft_boxProdRight [DecidableEq α] [DecidableRel G.Adj] {a b₁
...
+      rcases disj with h₁ | h₂
+      · simp only [h₁, SimpleGraph.irrefl, false_and, and_self, ↓reduceDIte, length_cons]
+        rw [add_comm, add_comm w'.ofBoxProdLeft.length 1, add_assoc]
+        congr
+        · exact h₁.2.symm
+        · simp only [heq_eqRec_iff_heq, heq_eq_eq]
+      · simp only [h₂, SimpleGraph.irrefl, false_and, ↓reduceDIte, length_cons, add_assoc]
+        congr
+        · exact h₂.2.symm
+        · simp only [heq_eqRec_iff_heq, heq_eq_eq]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:163]:
```suggestion
      unfold ofBoxProdLeft ofBoxProdRight Or.by_cases
      rw [length_cons, length_boxProd w']
      have disj : (G.Adj a₁ c.1 ∧ b₁ = c.2) ∨ (H.Adj b₁ c.2 ∧ a₁ = c.1) := by aesop
      rcases disj with h₁ | h₂
      · simp only [h₁, SimpleGraph.irrefl, false_and, and_self, ↓reduceDIte, length_cons]
        rw [add_comm, add_comm w'.ofBoxProdLeft.length 1, add_assoc]
        congr
        · exact h₁.2.symm
        · simp only [heq_eqRec_iff_heq, heq_eq_eq]
      · simp only [h₂, SimpleGraph.irrefl, false_and, ↓reduceDIte, length_cons, add_assoc]
        congr
        · exact h₂.2.symm
        · simp only [heq_eqRec_iff_heq, heq_eq_eq]
```
Can you unindent once?

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 14]
```diff
@@ -141,6 +142,26 @@ theorem ofBoxProdLeft_boxProdRight [DecidableEq α] [DecidableRel G.Adj] {a b₁
...
+  | .cons x w' => next c =>
+      unfold ofBoxProdLeft ofBoxProdRight Or.by_cases
+      rw [length_cons, length_boxProd w']
+      have disj : (G.Adj a₁ c.1 ∧ b₁ = c.2) ∨ (H.Adj b₁ c.2 ∧ a₁ = c.1) := by aesop
+      rcases disj with h₁ | h₂
+      · simp only [h₁, SimpleGraph.irrefl, false_and, and_self, ↓reduceDIte, length_cons]
+        rw [add_comm, add_comm w'.ofBoxProdLeft.length 1, add_assoc]
+        congr
+        · exact h₁.2.symm
+        · simp only [heq_eqRec_iff_heq, heq_eq_eq]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:159]: Please don't squeeze terminal simps. Same below

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 15]
```diff
@@ -212,4 +233,42 @@ theorem boxProd_degree (x : α × β)
...
+    (G □ H).Reachable x y ↔ G.Reachable x.1 y.1 ∧ H.Reachable x.2 y.2 := by
+  classical
+  constructor
+  · intro ⟨w⟩
+    exact ⟨⟨w.ofBoxProdLeft⟩, ⟨w.ofBoxProdRight⟩⟩
+  · intro ⟨⟨w₁⟩, ⟨w₂⟩⟩
+    exact ⟨(w₁.boxProdLeft _ _).append (w₂.boxProdRight _ _)⟩
+
+
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:246]:
```suggestion

```

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 16]
```diff
@@ -212,4 +233,42 @@ theorem boxProd_degree (x : α × β)
...
+@[simp]
+lemma boxProd_edist (x y : α × β) :
+    (G □ H).edist x y = G.edist x.1 y.1 + H.edist x.2 y.2 := by
+  classical
+  have top_case : (G □ H).edist x y = ⊤ ↔ G.edist x.1 y.1 = ⊤ ∨ H.edist x.2 y.2 = ⊤ := by
+    simp_rw [← not_ne_iff, edist_ne_top_iff_reachable, boxProd_reachable, not_and_or]
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:253]: Please don't put blank space in your proofs. If you feel like you need to put blank space somewhhere, then please reconsider whether there shouldn't a comment there instead :)

Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:253]: Changing it! Personally, I feel like blank lines improve readability, and are thus used extensively in many other programming languages [https://www.oracle.com/java/technologies/javase/codeconventions-whitespace.html](Example reference to Oracle Java). But if this is the Mathlib standard, then I will adhere.

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 13 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:163]: Sure! Is there a Mathlib linter or some way to know what is preferred? For example, this block in the library guidelines [https://leanprover-community.github.io/contribute/style.html#calculations](here) seems to have the indentation I'm using. Although given it's a `calc` block that might not be applicable here...

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 16 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean:253]: I agree blank lines improve readability, but comments improve readability more! In particular, if a proof is long and has a nice place for a split, it's probably a great place for a comment. (Plus, if you have a comment, then blank lines are much more common!)

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 13 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: Done

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 16 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: Added the comment, and reduced the whitespace!

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: Oh, good point. Fixed in https://github.com/leanprover-community/leanprover-community.github.io/pull/566

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 17]
```diff
@@ -141,6 +142,26 @@ theorem ofBoxProdLeft_boxProdRight [DecidableEq α] [DecidableRel G.Adj] {a b₁
     · simp [ofBoxProdLeft_boxProdRight]
     · exact ⟨h, rfl⟩
 
+lemma length_boxProd {a₁ a₂ : α} {b₁ b₂ : β} [DecidableEq α] [DecidableEq β]
+    [DecidableRel G.Adj] [DecidableRel H.Adj] (w : (G □ H).Walk (a₁, b₁) (a₂, b₂)) :
+    w.length = w.ofBoxProdLeft.length + w.ofBoxProdRight.length := by
+  match w with
+  | .nil => simp [ofBoxProdLeft, ofBoxProdRight]
+  | .cons x w' => next c =>
+    unfold ofBoxProdLeft ofBoxProdRight Or.by_cases
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:151]: Not sure why you need unfolding `Or.by_cases` here. You should be able to change the simp calls below
```suggestion
    unfold ofBoxProdLeft ofBoxProdRight
```

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean [hunk 18]
```diff
@@ -141,6 +142,26 @@ theorem ofBoxProdLeft_boxProdRight [DecidableEq α] [DecidableRel G.Adj] {a b₁
...
+    rw [length_cons, length_boxProd w']
+    have disj : (G.Adj a₁ c.1 ∧ b₁ = c.2) ∨ (H.Adj b₁ c.2 ∧ a₁ = c.1) := by aesop
+    rcases disj with h₁ | h₂
+    · simp only [h₁, SimpleGraph.irrefl, false_and, and_self, ↓reduceDIte, length_cons]
+      rw [add_comm, add_comm w'.ofBoxProdLeft.length 1, add_assoc]
+      congr
+      · exact h₁.2.symm
+      · simp
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Prod.lean:159]: This possibly works
```suggestion
      congr <;> simp [h₁.2.symm]
```
Same below

**Review by YaelDillies — COMMENTED** [review]
Don't forget to remove `awaiting-author` once you are done addressing comments 😉

File: Mathlib/Combinatorics/SimpleGraph/Prod.lean (hunk 17 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Prod.lean]: Indeed, I just thought it was shorter to unfold it once instead of having to use it in both simp calls. But I changed it to be in the simp calls!

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by b-mehta** [comment]
Thanks!

bors merge
